US06884774B2
To a solution of 4-(5-methoxypentyloxy)-1-N-t-butoxycarbonylpiperidine (1.97 g) in ethyl acetate (20 ml) was added 4N-hydrogen chloride ethyl acetate solution (16.3 ml), and the mixture was stirred at ambient temperature for 2 hours. The reaction mixture was evaporated in vacuo. The resulting residue was dissolved in a mixture of dichloromethane and methanol (10:1; 50 ml: 5 ml). To this solution was added 1N-sodium hydroxide (5 ml) with stirring. The organic layer was separated and evaporated under reduced pressure to give 4-(5-methoxypentyloxy)-piperidine (0.62 g).

reactant | 4-(5-methoxypentyloxy)-1-N-t-butoxycarbonylpiperidine | 1.97 g | COCCCCCOC1CCN(CC1)C(=O)OC(C)(C)C | C16H31NO4
reactant | hydrogen chloride ethyl acetate | 16.3 ml | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-(5-methoxypentyloxy)-piperidine | 0.62 g | COCCCCCOC1CCNCC1 | C11H23NO2
